US07767685B2
To a solution of 1,3-dipropyl-5,6-diaminouracil (2.20 mmol), in MeOH (10 mL), is added an equimolar amount of the title C compound, 5-methyl-1-phenylcarbamoylmethyl-1H-pyrazole-3-carboxylic acid, and EDCl (2.21 mmol). The reaction mixture is stirred at RT for 4-5 h while being monitored by TLC. The solvent is concentrated in vacuo and the amide intermediate is precipitated by the addition of water. After filtration, the solid is dissolved in MeOH (10 mL) and aqueous NaOH (2.5 N, 15 mL) and the mixture is stirred at 50-60° C. for 1 h. The MeOH is distilled off, and the residue is taken up in H2O and acidified with HCl to pH 4-5. The precipitate is collected by filtration, washed with water, and purified by flash chromatography (ethyl acetate-petroleum ether) to afford 2-[3-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-5-methyl-pyrazol-1-yl]-N-phenyl-acetamide: m.p. 255-257° C.; 1H-NMR (DMSO-d6) δ 0.87 (m, 6H), 1.56 (q, 2H), 1.70 (q, 2H), 2.32 (s, 3H), 3.84 (m, 2H), 3.98 (m, 2H), δ0.08 (s, 2H), 6.74 (s, 1H), 7.08 (m, 1H), 7.33 (m, 2H), 7.59 (m, 2H), 10.41 (s, 1H), 13.85 (s, 1H).

reactant | 1,3-dipropyl-5,6-diaminouracil | 2.20 mmol | C(CC)N1C(=O)N(C(=O)C(=C1N)N)CCC | C10H18N4O2
reactant | 5-methyl-1-phenylcarbamoylmethyl-1H-pyrazole-3-carboxylic acid | CC1=CC(=NN1CC(NC1=CC=CC=C1)=O)C(=O)O | C13H13N3O3
reactant | EDCl | 2.21 mmol | CCN=C=NCCCN(C)C.Cl
solvent | MeOH | 10 mL | CO | CH4O
product | 2-[3-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-5-methyl-pyrazol-1-yl]-N-phenyl-acetamide | O=C1N(C(C=2NC(=NC2N1CCC)C1=NN(C(=C1)C)CC(=O)NC1=CC=CC=C1)=O)CCC | C23H27N7O3
